US08791142B2
Step 4) 3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)benzoic acid
A 1.5M solution of tert-butyllithium in pentane (64 mL, 95 mmol) was added into anhydrous Et2O (130 mL) cooled at −78° C. A solution of 1-[4-bromo-2-(methoxymethyl)phenyl]-2-methylpiperidine (13.0 g, 43.5 mmol) in anhydrous Et2O (20 mL) was added slowly. After 40 minutes, the reaction mixture was poured on an excess of freshly crushed dry ice and stirred for 30 min. The mixture was diluted with Et2O/EtOAc (1:1, 800 mL) and washed with water (200 mL, pH=4-5 adjusted with a 5N aqueous solution of HCl). The aqueous layer was extracted with EtOAc (400 mL). The organic layers were combined, dried (MgSO4) and the solvents were removed under reduced pressure to give a yellow oil, which was triturated in iPr2O (˜20 mL) and pentane (˜20 mL). The precipitate was filtered off, washed with pentane and dried under reduced pressure to give the title compound as a beige powder. HPLC (Method A), Rt: 1.6 min (purity: 93.5%). UPLC/MS, M+(ESI): 264.2, M−(ESI): 262.2. 1H NMR (CDCl3, 300 MHz) δ 8.22 (d, J=2.1 Hz, 1H), 8.00 (dd, J=8.3, 2.1 Hz, 1H), 7.17 (d, J=8.3 Hz, 1H), 4.60 (d, J=12.3 Hz, 1H), 4.55 (d, J=12.3 Hz, 1H), 3.46 (s, 3H), 3.17 (m, 1H), 3.02 (m, 1H), 2.63 (m, 1H), 1.88-1.65 (m, 4H), 1.55-1.40 (m, 2H), 0.88 (d, J=6.2 Hz, 3H).

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 95 mmol, 64 mL | CCCCC | C5H12
reactant | 1-[4-bromo-2-(methoxymethyl)phenyl]-2-methylpiperidine | 43.5 mmol, 13.0 g | BrC1=CC(=C(C=C1)N1C(CCCC1)C)COC | C14H20BrNO
reactant | dry ice | C(=O)=O | CO2
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | Et2O EtOAc | 800 mL | CCOCC.CCOC(=O)C
solvent | Et2O | 130 mL | CCOCC | C4H10O
product | 3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)benzoic acid | COCC=1C=C(C(=O)O)C=CC1N1C(CCCC1)C | C15H21NO3
